US06573263B2
Analogously to Example 10A, 3.5 g (15.8 mmol) 2-(6-quinolinyl)ethanamidine hydrochloride are reacted with 950 mg (19.0 mmol) of hydrazine hydrate and 4.43 g (23.7 mmol) of ethyl 3-(acetylamino)-2-oxobutanoate to give N-{1-[5-oxo-3-(6-quinolinylmethyl)-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide.

reactant | 2-(6-quinolinyl)ethanamidine hydrochloride | 15.8 mmol, 3.5 g | Cl.N1=CC=CC2=CC(=CC=C12)CC(=N)N
reactant | hydrazine hydrate | 19.0 mmol, 950 mg | O.NN
reactant | ethyl 3-(acetylamino)-2-oxobutanoate | 23.7 mmol, 4.43 g | C(C)(=O)NC(C(C(=O)OCC)=O)C | C8H13NO4
product | N-{1-[5-oxo-3-(6-quinolinylmethyl)-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide | O=C1NC(=NN=C1C(C)NC(C)=O)CC=1C=C2C=CC=NC2=CC1 | C17H17N5O2
